US08609647B2
(12) Optically-Active Compound of 3-[3-methyl-6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diazaspiro[3.5]non-1-yl]-3-oxopropionitrile
An optically-active compound of 4-(3-methyl-1,6-diazaspiro[3.5]non-6-yl)-7H-pyrrolo[2,3-d]pyrimidine (25 mg) was mixed with 1-cyanoacetyl-3,5-dimethylpyrazole (32 mg) and 1,4-dioxane (750 μl), and the mixture was stirred at 100° C. for 3.5 hours. The mixture was cooled to room temperature. Thereto were added water and saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The separated aqueous layer was extracted with ethyl acetate five times, and the combined organic layer was washed with water and concentrated under reduced pressure. The resulting residue was purified by silica-gel thin layer chromatography (eluent: chloroform/methanol=9/1). The resulting residue was purified by silica-gel thin layer chromatography (eluent: ethyl acetate/methanol=93/7) again. The resulting solid (8.0 mg) was slurry-washed with n-hexane/ethyl acetate solution to give the titled compound (6.7 mg).

reactant | 4-(3-methyl-1,6-diazaspiro[3.5]non-6-yl)-7H-pyrrolo[2,3-d]pyrimidine | 25 mg | CC1CNC12CN(CCC2)C=2C1=C(N=CN2)NC=C1 | C14H19N5
reactant | 1-cyanoacetyl-3,5-dimethylpyrazole | 32 mg | CC1=CC(=NN1C(=O)CC#N)C | C8H9N3O
reactant | 1,4-dioxane | 750 μl | O1CCOCC1 | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 3-[3-methyl-6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diazaspiro[3.5]non-1-yl]-3-oxopropionitrile | 6.7 mg | CC1CN(C12CN(CCC2)C=2C1=C(N=CN2)NC=C1)C(CC#N)=O | C17H20N6O
